US04721784
6-(4-Acetyl-3,4-dihydro-1,4(2H)-benzoxazin-6-yl)-2,3,4,5-tetrahydro-5-methylpyridazin-3-one
6-(3,4-Dihydro-1,4(2H)-benzoxazin-6-yl)-2,3,4,5-tetrahydro-5-methylpyridazin-3-one was suspended in tetrahydrofuran and one equivalent of acetyl chloride was added. After one half hour at 0° C., the solvent was removed in vacuo, and the product was crystallized from ethanol in 61% yield, mp 185.5°-186° C.

reactant | 6-(3,4-Dihydro-1,4(2H)-benzoxazin-6-yl)-2,3,4,5-tetrahydro-5-methylpyridazin-3-one | O1CCNC2=C1C=CC(=C2)C=2C(CC(NN2)=O)C | C13H15N3O2
reactant | acetyl chloride | one equivalent | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-(4-Acetyl-3,4-dihydro-1,4(2H)-benzoxazin-6-yl)-2,3,4,5-tetrahydro-5-methylpyridazin-3-one | 61% yield | C(C)(=O)N1CCOC2=C1C=C(C=C2)C=2C(CC(NN2)=O)C | C15H17N3O3
